US05726165
(R)-5-(2-Aminopropyl)-1,3-benzodioxole-2,2-dicarboxylic acid, diethyl ester, hydrochloride salt
A solution of (R)-5-[N-(t-butyloxycarbonyl)-2-aminopropyl]-1,3-benzodioxole-2,2-dicarboxylic acid diethyl ester (3.0 g, 7 mMol) in ethyl acetate (40 ml) and hydrogen chloride solution in diethyl ether (1M, 56 ml, 56 mMol) was stirred at ambient temperature under an argon atmosphere for 48 hours. The solvent was evaporated and the residue was dried giving the title compound as a glass.

reactant | (R)-5-[N-(t-butyloxycarbonyl)-2-aminopropyl]-1,3-benzodioxole-2,2-dicarboxylic acid diethyl ester | 7 mMol, 3.0 g | C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC(=O)OC(C)(C)C)C(=O)OCC | C21H29NO8
reactant | diethyl ether | 56 mMol, 1M, 56 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (R)-5-(2-Aminopropyl)-1,3-benzodioxole-2,2-dicarboxylic acid, diethyl ester, hydrochloride salt | Cl.N[C@@H](CC1=CC2=C(OC(O2)(C(=O)OCC)C(=O)OCC)C=C1)C | InChI=1S/C16H21NO6.ClH/c1-4-20-14(18)16(15(19)21-5-2)22-12-7-6-11(8-10(3)17)9-13(12)23-16;/h6-7,9-10H,4-5,8,17H2,1-3H3;1H/t10-;/m1./s1
